US06846492B2
3.4,5-Trisbenzyloxybenzoic Acid Methyl Ester
105 g (0.83 mol) of benzyl chloride are added dropwise at 56° C., under reflux, over a period of 10 minutes, to 18.4 g (0.1 mol) of 3,4,5-trihydroxybenzoic acid methyl ester, 50.0 g (0.48 mol) of sodium carbonate and 10.0 g (0.06 mol) of potassium iodide in 200 ml of acetone. After a further 20 hours at reflux, 500 ml of water are added at room temperature and the mixture is then extracted with ether. The crude product is worked up in customary manner, excess benzyl chloride is removed by distillation, and the residue is recrystallised from hexane/ethyl acetate. Colourless crystals, yield 45.0 g (98% of theory)

reactant | benzyl chloride | 0.83 mol, 105 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | 3,4,5-trihydroxybenzoic acid methyl ester | 0.1 mol, 18.4 g | COC(C1=CC(=C(C(=C1)O)O)O)=O | C8H8O5
reactant | sodium carbonate | 0.48 mol, 50.0 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | 0.06 mol, 10.0 g | [I-].[K+]
solvent | acetone | 200 ml | CC(=O)C | C3H6O
solvent | water | 500 ml | O | H2O
product | 3.4,5-Trisbenzyloxybenzoic Acid Methyl Ester | COC(C1=CC(=C(C(=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)=O | C29H26O5
